Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
bleeding while shaving and shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ y/o M with severe COPD on home oxygen (baseline 85% 
on ___ NC), s/p recent PEA arrest in setting of running out of 
oxygen who cut himself under his nose while shaving and did not 
stop bleeding for 4 hours. He called EMS who arrived and noticed 
that he was SOB. Patient noted that he has been more short of 
breath over the last 4 months than his previous baseline. No 
increase or change in color of sputum.  Baseline exercise 
tolerance ~1 block, a bit decreased now.  He denies any fever, 
chills, N/V, palps. He also noted some mild CP while coughing 
"ever since they did CPR on me."  
.  
In ED, 98.3 87 155/61 22 88% 3LNC. He recieved combineb X 3, ASA 
325 X 1, and solumedrol 125 mg IV X1. His SOB improved and sats 
improved to 92% 3L.  
 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
On Admission:
PE: 97  140/70  20  95% on 2.5L  
Gen: NAD, obese, mild SOB with talking, puffs 
HEENT: Clear OP, MMM  
NECK: Supple  
CV: RR, NL rate. NL S1, S2. No murmurs, rubs ___  
LUNGS: very poor air mvt; no wheezing
ABD: Soft, NT, ND. NL BS. No HSM  
EXT: No edema. 2+ DP pulses ___. chornic venous stasis changes, 
no lesions in area where pt experiences burning pain 
SKIN: white patches on elbows, scalp and gluteal fold c/w 
psoriasis
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. Proprioception, 
light touch, and temperature in tact in feet.
 
Pertinent Results:
___ 04:05PM BLOOD WBC-6.9# RBC-4.18* Hgb-12.6* Hct-37.3* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-14.1 Plt ___
___ 07:30AM BLOOD WBC-7.9 RBC-3.85* Hgb-11.3* Hct-34.2* 
MCV-89 MCH-29.4 MCHC-33.1 RDW-14.1 Plt ___
___ 06:55AM BLOOD WBC-9.2 RBC-3.74* Hgb-11.0* Hct-33.2* 
MCV-89 MCH-29.4 MCHC-33.2 RDW-14.4 Plt ___
___ 04:05PM BLOOD Neuts-84.6* Lymphs-9.6* Monos-3.8 Eos-1.7 
Baso-0.3
.
___ 04:05PM BLOOD ___ PTT-25.5 ___
.
___ 04:05PM BLOOD Glucose-129* UreaN-19 Creat-0.8 Na-145 
K-4.8 Cl-106 HCO3-31 AnGap-13
___ 07:30AM BLOOD Glucose-142* UreaN-23* Creat-0.8 Na-143 
K-4.8 Cl-103 HCO3-33* AnGap-12
___ 06:55AM BLOOD Glucose-104 UreaN-24* Creat-0.7 Na-145 
K-3.8 Cl-104 HCO3-34* AnGap-11
.
___ 04:05PM BLOOD CK-MB-NotDone cTropnT-<0.01 proBNP-252*
.
___ 07:30AM BLOOD Calcium-9.1 Phos-2.9 Mg-1.7
___ 06:55AM BLOOD Calcium-9.3 Phos-2.8 Mg-1.7
.
___ 06:55AM BLOOD VitB12-PND
.
___ 04:04PM BLOOD Lactate-1.2
.
Chest X-Ray: AP upright portable chest radiograph is obtained. 
The lungs are grossly clear bilaterally. Cardiomediastinal 
silhouette is stable. No pneumothorax. Osseous structures appear 
grossly intact.
IMPRESSION: No acute intrathoracic process.
 
Brief Hospital Course:
# COPD: Patient is recently s/p treatment for a MRSA pneumonia 
in ___. On admission, not much below baseline breathing 
status  
- received solumedrol x 1 dose, then Prednisone 60mg x 2d, will 
plan for steroid taper over 10 days on discharge back to 10mg 
every other day.
- azithromycin, will complete 5 day course on discharge
- continued nebulizers and inhalers as needed  
- continued supplemental oxygen, goal O2 low 88-92%, O2 sat 
actually up to 96% on 3 liters 
- continued advair  
- continued calc, vit D, bisphosphonate since on chronic 
steroids  
.  
# DM: type 2. Finger sticks elevated in the context of steroids. 
 Had polyuria that was presumed to be due to the elevated blood 
sugars.  Increased glyburide to 10mg daily while here with very 
tight control.  Advised patient to increase from his 2.5mg every 
other day to 2.5mg daily and up to 5 or 10mg daily if blood 
sugars high on the prednisone at home.  Want to avoid 
hypoglycemia.  Continued metformin.
.  
# Diastolic heart failure - Continued lasix 40 mg daily.  
Continued afterload reduction with Lisinopril
.  
# Hypertension - Continued Norvasc, Lisinopril, lasix  
.  
# Right ankle burning:  Did not occur in the hospital.  Symptoms 
only occur at night in one ankle and no symptoms during the day 
with use.  Likely secondary to diabetes.  Patient counselled to 
discuss with ___ at next outpatient visit.
.  
# Vitamin B12 deficiency - due for monthly injection, received.  
Vitamin B12 level pending on discharge, can be followed up as 
outpatient.
.
# Chest pain: Secondary to recent CPR and clearly 
musculoskeletal.  One set of cardiac enzymes negative.  No need 
for rule out.  Ibuprofen as needed.
.  
# FEN:  Diabetic, low sodium  
.  
# Prophylaxis: Subcutaneous heparin, bowel regimen, PPI and H2 
(takes both at home)  
.  
# CODE: Full, confirmed w/ pt  
.  
# DISP: Respiratory status improved to baseline.  Home, does not 
need ___.  Needs albuterol inhaler and cab voucher.
 
Medications on Admission:
Albuterol IH 2 puffs PRN  
Combivent 2 puffs QID  
Fluticasone-Salmeterol 250-50 BID  
omeprazole 20 mg BID  
Aspirin 325 mg daily  
Simvastatin 5 mg daily  
Glyburide 2.5 mg QOD  
Metformin 1000 mg BID  
colace  
senna  
ranitidine 300 mg daily  
Prednisone 10 mg QOD  
Lisinopril 20 mg daily  
Ferrous Sulfate 325 mg  
Alendronate 70 mg ___  
Calcium Carbonate 500 BID W/ MEALS  
Vitamin D3 400 unit daily  
Hexavitamin  
Furosemide 40 mg daily  
Amlodipine 5 mg daily  
Latanoprost 0.005 % Drops QHS  
Magnesium Oxide 400 daily  

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every six (6) hours as needed for shortness of breath 
or wheezing.  
3. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.  
4. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO QOD: Take 
daily while on the steroid taper, can increase to 5mg or 10mg if 
sugars still running high.  
8. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
9. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
10. Senna 8.6 mg Capsule Sig: One (1) Capsule PO at bedtime.  
11. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO once a 
day.  
12. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
15. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
16. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Hexavitamin     Tablet Sig: One (1) Tablet PO once a day.  
18. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
20. Latanoprost 0.005 % Drops Sig: One (1) drop Ophthalmic at 
bedtime.  
21. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
22. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 days.
Disp:*2 Tablet(s)* Refills:*0*
23. Prednisone 10 mg Tablet Sig: See below Tablet PO once a day: 
Take 5 tablets/day x 2 days, then 4 tablets/day for 2 days, then 
3 tablets/day for 2 days, then 2 tablets/day for 2 days, then 1 
tablet/day for 2 days, then return to 10mg every other day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: COPD exacerbation
Secondary: Type 2 Diabetes Mellitus, Vitamin B12 deficiency, 
Tobacco abuse

 
Discharge Condition:
stable, oxygen saturation at baseline, no bleeding

 
Discharge Instructions:
You were admitted to the hospital with an exacerbation of your 
COPD and with bleeding from a cut under your nose.  The bleeding 
stopped on its own and there was no obvious cause.  Your blood 
clotting factors and platelets were normal.  Your COPD 
exacerbation improved with IV and oral steroids, antibiotics and 
nebulizer treatments.  
- While in the hospital, your glyburide was increased from 2.5mg 
every other day to 10mg daily while on the steroids.  We are 
tapering the dose of your steroids, so when you go home, take 
2.5mg daily and you can increase this to 5mg daily if your blood 
sugars are running high.
- Complete the prescribed course of azithromycin
- Complete the steroid taper down to your regular dose of 
Prednisone 10mg every other day
- Call your doctor if you feel increasing shortness of breath, 
chest pain, fever, nausea/vomiting or any other questions or 
concerns
- Take all your other medications as prescribed
 
Followup Instructions:
___